* Created by KLayout
*** My special header ***

* cell opamp_r2r_diff
* pin BPI
* pin INM_N
* pin INM_P
* pin INP
* pin INP_N
* pin INP_P
* pin VDD
* pin bni
* pin bno
* pin bpo
* pin inM
* pin vss
.SUBCKT opamp_r2r_diff BPI INM_N INM_P INP INP_N INP_P VDD bni bno bpo inM vss
* cell instance $1 r0 *1 0,-80
X$1 \$6 bno vss vss NFET_STD
* cell instance $2 m90 *1 77,-80
X$2 \$3 bno vss vss NFET_STD
* cell instance $3 m90 *1 77,-40
X$3 \$3 bni \$5 vss NFET_STD
* cell instance $4 r0 *1 0,-40
X$4 \$6 bni \$5 vss NFET_STD
* cell instance $5 m90 *1 77,0
X$5 \$5 inM INP_N vss NFET_STD
* cell instance $6 r0 *1 0,0
X$6 \$5 INP INM_N vss NFET_STD
* device instance $1 r180 *1 73.8,80.2 PMOS
XM$1 INM_P inM \$28 VDD PMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $2 r180 *1 66.8,80.2 PMOS
XM$2 \$28 inM INM_P VDD PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $3 r180 *1 59.8,80.2 PMOS
XM$3 INM_P inM \$28 VDD PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $4 r180 *1 52.8,80.2 PMOS
XM$4 \$28 inM INM_P VDD PMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
* device instance $5 r180 *1 10.4,80.2 PMOS
XM$5 INP_P INP \$28 VDD PMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $6 r180 *1 3.4,80.2 PMOS
XM$6 \$28 INP INP_P VDD PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $7 r180 *1 -3.6,80.2 PMOS
XM$7 INP_P INP \$28 VDD PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $8 r180 *1 -10.6,80.2 PMOS
XM$8 \$28 INP INP_P VDD PMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
* device instance $9 r180 *1 10.4,160.2 PMOS
XM$9 VDD bpo \$48 VDD PMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $10 r180 *1 3.4,160.2 PMOS
XM$10 \$48 bpo VDD VDD PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $11 r180 *1 -3.6,160.2 PMOS
XM$11 VDD bpo \$48 VDD PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $12 r180 *1 -10.6,160.2 PMOS
XM$12 \$48 bpo VDD VDD PMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
* device instance $13 r180 *1 73.8,160.2 PMOS
XM$13 VDD bpo \$49 VDD PMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $14 r180 *1 66.8,160.2 PMOS
XM$14 \$49 bpo VDD VDD PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $15 r180 *1 59.8,160.2 PMOS
XM$15 VDD bpo \$49 VDD PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $16 r180 *1 52.8,160.2 PMOS
XM$16 \$49 bpo VDD VDD PMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
* device instance $17 r180 *1 10.4,120.2 PMOS
XM$17 \$28 BPI \$48 VDD PMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $18 r180 *1 3.4,120.2 PMOS
XM$18 \$48 BPI \$28 VDD PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $19 r180 *1 -3.6,120.2 PMOS
XM$19 \$28 BPI \$48 VDD PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $20 r180 *1 -10.6,120.2 PMOS
XM$20 \$48 BPI \$28 VDD PMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
* device instance $21 r180 *1 73.8,120.2 PMOS
XM$21 \$28 BPI \$49 VDD PMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $22 r180 *1 66.8,120.2 PMOS
XM$22 \$49 BPI \$28 VDD PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $23 r180 *1 59.8,120.2 PMOS
XM$23 \$28 BPI \$49 VDD PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $24 r180 *1 52.8,120.2 PMOS
XM$24 \$49 BPI \$28 VDD PMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
.ENDS opamp_r2r_diff

* cell NFET_STD
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_STD \$1 \$2 \$4 VSS
* device instance $1 r0 *1 4.9,16 NMOS
XM$1 \$1 \$2 \$4 VSS NMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $2 r0 *1 11.9,16 NMOS
XM$2 \$4 \$2 \$1 VSS NMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
.ENDS NFET_STD
