* Created by KLayout
*** My special header ***

* cell opamp_r2r_diff_AK
* pin BPI
* pin INM_N
* pin INM_P
* pin INP
* pin INP_N
* pin INP_P
* pin VDD
* pin bni
* pin bno
* pin bpo
* pin inM
* pin vss
.SUBCKT opamp_r2r_diff_AK BPI INM_N INM_P INP INP_N INP_P VDD bni bno bpo inM
+ vss
* device instance $1 r180 *1 73.8,80.2 PMOS
XM$1 INP_P inM \$28 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $5 r180 *1 10.4,80.2 PMOS
XM$5 INM_P INP \$28 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $9 r180 *1 10.4,160.2 PMOS
XM$9 VDD bpo \$48 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $13 r180 *1 73.8,160.2 PMOS
XM$13 VDD bpo \$49 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $17 r180 *1 10.4,120.2 PMOS
XM$17 \$28 BPI \$48 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $21 r180 *1 73.8,120.2 PMOS
XM$21 \$28 BPI \$49 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $25 r0 *1 4.9,-64 NMOS
XM$25 \$6 bno vss vss NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $27 m90 *1 72.1,-64 NMOS
XM$27 \$3 bno vss vss NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $29 m90 *1 72.1,-24 NMOS
XM$29 \$3 bni \$5 vss NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $31 r0 *1 4.9,-24 NMOS
XM$31 \$6 bni \$5 vss NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $33 m90 *1 72.1,16 NMOS
XM$33 \$5 inM INP_N vss NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $35 r0 *1 4.9,16 NMOS
XM$35 \$5 INP INM_N vss NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS opamp_r2r_diff_AK
